US07977331B1
To a solution of methyl 1-(2-aminoethyl)-2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (2.95 g, 7.78 mmol) in ethyl acetate (30 ml) and saturated aqueous sodium hydrogen carbonate solution (10 ml) was added di-tert-butyl dicarbonate (2.10 g, 9.62 mmol), and the mixture was stirred at room temperature for 3 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=8:1-3:1) to give methyl 2-bromo-1-(2-tert-butoxycarbonylaminoethyl)-3-cyclohexyl-1H-indole-6-carboxylate (2.78 g, yield 74%).

reactant | methyl 1-(2-aminoethyl)-2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | 7.78 mmol, 2.95 g | NCCN1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)Br | C18H23BrN2O2
reactant | di-tert-butyl dicarbonate | 9.62 mmol, 2.10 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
product | methyl 2-bromo-1-(2-tert-butoxycarbonylaminoethyl)-3-cyclohexyl-1H-indole-6-carboxylate | 2.78 g, yield 74% | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCNC(=O)OC(C)(C)C | C23H31BrN2O4
